US08609653B2
A mixture of methyl 2-(chroman-6-ylmethylene)-3-oxobutanoate (8.27 g, 31.8 mmol), ethyl 3,3-diaminoacrylate, hydrochloride (5.29 g, 31.8 mmol) and 4-methylmorpholine (3.49 mL, 31.8 mmol) in Isopropanol (76.0 mL) was heated to 90° C. overnight. The mixture was concentrated, dissolved in ethyl acetate, washed with brine, dried over sodium sulfate, filtered and concentrated to provide crude 3-ethyl 5-methyl 2-amino-4-(chroman-6-yl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate which was used without further purification. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.00-6.87 (m, 3 H), 6.64-6.58 (m, 1 H), 6.20 (br. s., 2 H), 4.83-4.77 (m, 1 H), 4.15-4.05 (m, 4 H), 3.71-3.63 (m, 3 H), 2.71 (t, J=6.3 Hz, 2 H), 2.27-2.16 (m, 3 H), 1.99-1.93 (m, 2 H), 1.27-1.22 (m, 3 H); LC/MS (m/z) ES+=373.3 (M+1). A solution of crude 3-ethyl 5-methyl 2-amino-4-(chroman-6-yl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate in dichloromethane (DCM) (216 mL) was treated with DDQ (7.22 g, 31.8 mmol) and then stirred at ambient temperature (mixture turned dark within one minute). The mixture was filtered over Celite™. The filtrate was diluted with saturated sodium bicarbonate and the layers were separated. The aqueous phase was extracted with DCM. The combined extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel (0-100% hexane/EA) to afford 3-ethyl 5-methyl 2-amino-4-(chroman-6-yl)-6-methylpyridine-3,5-dicarboxylate (7.64 g, 20.63 mmol, 64.9% yield) as a brown solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 6.86 (d, 1 H), 6.81 (s, 1 H), 6.73 (d, J=8.4 Hz, 1 H), 6.23-6.02 (m, 2 H), 4.17 (t, J=4.7 Hz, 2 H), 3.99-3.77 (m, 2 H), 3.52-3.43 (m, 3 H), 2.73 (br. s., 2H), 2.45-2.35 (m, 3 H), 1.98 (br. s., 2 H), 0.83-0.67 (m, 3 H); LC/MS (m/z) ES+=371.3 (M+1).

reactant | methyl 2-(chroman-6-ylmethylene)-3-oxobutanoate | 31.8 mmol, 8.27 g | O1CCCC2=CC(=CC=C12)C=C(C(=O)OC)C(C)=O | C15H16O4
reactant | ethyl 3,3-diaminoacrylate, hydrochloride | 31.8 mmol, 5.29 g | Cl.NC(=CC(=O)OCC)N
reactant | 4-methylmorpholine | 31.8 mmol, 3.49 mL | CN1CCOCC1 | C5H11NO
solvent | Isopropanol | 76.0 mL | C(C)(C)O | C3H8O
product | 3-ethyl 5-methyl 2-amino-4-(chroman-6-yl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | NC=1NC(=C(C(C1C(=O)OCC)C=1C=C2CCCOC2=CC1)C(=O)OC)C | C20H24N2O5
